US08466186B2
(a) 4-Chloro-5-(2-dimethylcarbamoyl-pyrrolidin-1-yl)-2-nitroaniline
Potassium carbonate (1.00 g, 7.3 mmol) was added to a mixture of pyrrolidine-2-carboxylic acid dimethylamide (1.00 g, 7.0 mmol) and 4,5-dichloro-2-nitroaniline (1.00 g, 4.8 mmol) in DMSO (6 mL). The reaction mixture was stirred at 120° C. for 2.5 h, diluted with EtOAc and washed with water and sat.aq. NaCl. The organic layer was dried over Na2SO4, concentrated and the crude was purified by chromatography to give the sub-title compound.

reactant | Potassium carbonate | 7.3 mmol, 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine-2-carboxylic acid dimethylamide | 7.0 mmol, 1.00 g | CN(C(=O)C1NCCC1)C | C7H14N2O
reactant | 4,5-dichloro-2-nitroaniline | 4.8 mmol, 1.00 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Chloro-5-(2-dimethylcarbamoyl-pyrrolidin-1-yl)-2-nitroaniline | ClC1=CC(=C(N)C=C1N1C(CCC1)C(N(C)C)=O)[N+](=O)[O-] | C13H17ClN4O3
